US09260363B2
Synthesis of 5H-indeno[1,2-b]pyridine
A mixture of 18.1 g (100 mmol) of 5H-indeno[1,2-b]pyridin-5-one, 27 ml (400 mmol) of hydrazine monohydrate, and 500 ml diethylene glycol was degassed and placed under nitrogen, and then heated at 170° C. for 12 h. After the reaction finish, the mixture was allowed to cool to room temperature. The organic layer was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was removed to give product 13.5 g (81%).

reactant | 5H-indeno[1,2-b]pyridin-5-one | 100 mmol, 18.1 g | N1=C2C(=CC=C1)C(C1=CC=CC=C12)=O | C12H7NO
reactant | hydrazine monohydrate | 400 mmol, 27 ml | O.NN
solvent | diethylene glycol | 500 ml | C(COCCO)O | C4H10O3
product | 5H-indeno[1,2-b]pyridine | 13.5 g, 81% | N1=C2C(=CC=C1)CC1=CC=CC=C12 | C12H9N
